US06528510B1
3-(2-tert-Butyl-4-hydroxymethyl-5-methyl-phenylsulfanyl)4-hydroxy-6-isopropyl-6-(2-pyridin-3-yl-ethyl)-5,6-dihydro-pyran-2-one
The title compound was prepared as described in General Method 16a using 4-hydroxy-6-isopropyl-6-(2-pyridin-3-yl-ethyl)-5,6-dihydro-pyran-2-one (Example E-16; 0.92 mmol), toluene-4-thiosulfonic acid S-(2-tert-butyl-4-hydroxymethyl-5-methyl-phenyl)ester (Example BB-2; 1.01 mmol), potassium carbonate (3.67 mmol) in DMF (5 mL). The product was triturated from Et2O, mp 122-125° C. MS (APCI): 470 (M+H).

reactant | 4-hydroxy-6-isopropyl-6-(2-pyridin-3-yl-ethyl)-5,6-dihydro-pyran-2-one | 0.92 mmol | OC1=CC(OC(C1)(CCC=1C=NC=CC1)C(C)C)=O | C15H19NO3
reactant | toluene-4-thiosulfonic acid S-(2-tert-butyl-4-hydroxymethyl-5-methyl-phenyl)ester | 1.01 mmol | C(C)(C)(C)C1=C(C=C(C(=C1)CO)C)SS(=O)(=O)C1=CC=C(C=C1)C | C19H24O3S2
reactant | potassium carbonate | 3.67 mmol | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3-(2-tert-Butyl-4-hydroxymethyl-5-methyl-phenylsulfanyl)4-hydroxy-6-isopropyl-6-(2-pyridin-3-yl-ethyl)-5,6-dihydro-pyran-2-one | C(C)(C)(C)C1=C(C=C(C(=C1)CO)C)SC=1C(OC(CC1O)(CCC=1C=NC=CC1)C(C)C)=O | C27H35NO4S
